US06235786B1
2-(((4-fluorophenyl)sulfonyl)methyl)cyclohexanol
The desired product was prepared by substituting cyclohexene oxide and 4-fluorophenyl methyl sulfone for propylene oxide and 1-(methylsulfonyl)-4-phenoxybenzene, respectively, in Example 120A.

reactant | 4-fluorophenyl methyl sulfone | CS(=O)(=O)C1=CC=C(C=C1)F | C7H7FO2S
reactant | propylene oxide | C1C(C)O1 | C3H6O
reactant | 1-(methylsulfonyl)-4-phenoxybenzene | CS(=O)(=O)C1=CC=C(C=C1)OC1=CC=CC=C1 | C13H12O3S
product | 2-(((4-fluorophenyl)sulfonyl)methyl)cyclohexanol | FC1=CC=C(C=C1)S(=O)(=O)CC1C(CCCC1)O | C13H17FO3S
